Filtro Sallen-Key da internet
R1 1 2 1E4
R2 2 3 1E4
C1 2 4 1E-9
C2 3 0 1E-9
OP1 4 0 3 4
V0200 1 0 SIN 0 10 15900 0 0 0 100
.TRAN 6E-3 6E-7 TRAP 1
*
*
*
* DESENHO AQUI
*
*
*
